US04011225
3-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide was treated with P2S5 to give 3-methyl-8-cyano-5,6,7,8-tetrahydroquinoline which was treated with H2S as described in Example 8 giving the title compound as colourless needles from benzene m.p. 151° (50% yield) (Found: C, 63.71; H, 6.85; N, 13.38% C11H14N2S requires: C, 64.04; H, 6.84; N, 13.58%).

reactant | 3-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide | CC=1C=NC=2C(CCCC2C1)C(=O)N | C11H14N2O
reactant | P2S5 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 3-methyl-8-cyano-5,6,7,8-tetrahydroquinoline | CC=1C=NC=2C(CCCC2C1)C#N | C11H12N2
